US05977105
b) 3'-Acetylbiphenyl-4-ol
A solution of 3'-acetyl-4-methoxybiphenyl (2.07 g) in hydrobromic acid (48%, 25 ml) and glacial acetic acid (25 ml) was heated at reflux under nitrogen for 1 hour. After cooling the mixture was poured into water and extracted with ether. The organic phase was washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give a crude yellow/brown solid The latter was purified by column chromatography over silica eluting with diethyl ether:hexane (2:3) to give the sub-title compound as a cream/orange solid (1.47 g).

reactant | 3'-acetyl-4-methoxybiphenyl | 2.07 g | C(C)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)OC | C15H14O2
reactant | water | O | H2O
solvent | hydrobromic acid | 25 ml | Br | BrH
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 3'-Acetylbiphenyl-4-ol | 1.47 g | C(C)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)O | C14H12O2
